US05001157
N-[[[2-(Aminocarbonyl)phenyl]amino]thioxomethyl)benzamide
To a stirred mixture of 13.6 g of 2-aminobenzamide and 200 ml of ether Was added dropwise, a solution of 16.3 g of benzoyl isothiocyanate in 100 ml of ether over 30 minutes. After standing 48 hours, the solid Was collected, giving 28.4 g of the desired product as grey crystals, mp 190°-192° C.

reactant | 2-aminobenzamide | 13.6 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | benzoyl isothiocyanate | 16.3 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | N-[[[2-(Aminocarbonyl)phenyl]amino]thioxomethyl)benzamide | 28.4 g | NC(=O)C1=C(C=CC=C1)NC(NC(C1=CC=CC=C1)=O)=S | C15H13N3O2S
